US08309581B2
c) 2-(4-Chloro-2-methoxy-phenyl)-5,6-difluoro-1H-benzoimidazole
To a suspension of 4-chloro-2-methoxy-benzoic acid (5 g, 0.026 mol; CAS Reg. No. 78955-90-5) in polyphosphoric acid (50 g) was added compound 4,5-difluoro-benzene-1,2-diamine (3.86 g, 0.026 mol; CAS Reg. No. 76179-40-3) and the resulting mixture was heated to 180° C. for 1 h. The reaction mixture was then cooled and neutralized with ice cold 10% aqueous sodium carbonate solution, and then extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and evaporated under reduced pressure. The residue was purified by column chromatography over silica gel (25% ethyl acetate/n-hexane) to give the desired compound as a brown solid (77%). MS (Turbo Spray): m/z=295.1 (M+H).

reactant | 4-chloro-2-methoxy-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)OC | C8H7ClO3
reactant | 4,5-difluoro-benzene-1,2-diamine | FC=1C=C(C(=CC1F)N)N | C6H6F2N2
product | 2-(4-Chloro-2-methoxy-phenyl)-5,6-difluoro-1H-benzoimidazole | 77% | ClC1=CC(=C(C=C1)C1=NC2=C(N1)C=C(C(=C2)F)F)OC | C14H9ClF2N2O
